US07960310B2
4.34 g (29.28 mmol) 4-methyl-indan-1-ol and 7.8 ml (35.14 mmol) diphenylphosphoryl azide are dissolved in dry THF at room temperature under argon. To this mixture is added slowly 5.0 ml (35.14 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene. The reaction is stirred for 6 h at room temperature (TLC monitoring). Then the mixture is poured into water and extracted three times with toluene. The organic layers are combined, dried over MgSO4 and concentrated in vacuo. Purification using silica gel chromatography (hexane/EtOAc 9:1) affords pure 1-azido-4-methyl-indane as light orange liquid.

reactant | 4-methyl-indan-1-ol | 29.28 mmol, 4.34 g | CC1=C2CCC(C2=CC=C1)O | C10H12O
reactant | diphenylphosphoryl azide | 35.14 mmol, 7.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 35.14 mmol, 5.0 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-azido-4-methyl-indane | N(=[N+]=[N-])C1CCC2=C(C=CC=C12)C | C10H11N3
